US06531491B1
2-(3-Amino-2-nitro-phenylsulfanyl)-ethanol (1.02 g, 4.8 mmol) was reduced by hydrogenation using 45 psi of H2 with 10% Pd—C (180 mg) in EtOAc (25 mL) for 6 h. After filtering through Celite, solvent was removed in vacuo. Purification by silica gel chromatography (EtOAc) gave 762 mg (87%) of 2-(2,3-diamino-phenylsulfanyl)-ethanol as a faintly yellow solid. 1H NMR (300 MHz, CDCl3) δ 6.98 (dd, 1H, J=7.5, 1.5 Hz), 6.60-6.72 (m, 2H), 3.65 (t, 2H, J=5.7 Hz), 3.55 (br s, 5H), 2.91 (t, 2H, J=5.7 Hz).

reactant | 2-(3-Amino-2-nitro-phenylsulfanyl)-ethanol | 4.8 mmol, 1.02 g | NC=1C(=C(C=CC1)SCCO)[N+](=O)[O-] | C8H10N2O3S
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 180 mg | [Pd] | Pd
product | 2-(2,3-diamino-phenylsulfanyl)-ethanol | 762 mg, 87% | NC1=C(C=CC=C1N)SCCO | C8H12N2OS
